US09315521B2
6-methyl-2-[(quinolin-2-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride
A mixture of 2-(chloromethyl)quinoline hydrochloride (1.0 g, 4.67 mmol) and 6-methyl-2-sulfanylpyrimidin-4-ol (0.46 g, 3.26 mmol) and K2CO3 (1.28 g, 9.34 mmol) in DMF (25 mL) was stirred overnight at room temperature. The solvent was filtered and evaporated to provide the crude product. Water was added to the crude reaction mixture to precipitate the product, which was then filtered and washed with water and ether to provide the titled product as a beige solid (0.68 g, 52% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.09 (s, 3H), 2.31 (s, 3H), 4.95 (s, 2H), 6.04 (bs, 1H), 7.87 (t, J=7.8, 15.0 Hz, 1H), 8.08 (m, 2H), 8.26 (d, J=8.1 Hz, 1H), 8.48 (d, J=8.2 Hz, 1H), 9.00 (d, J=8.2 Hz, 1H); M+283.3.

reactant | 2-(chloromethyl)quinoline hydrochloride | 4.67 mmol, 1.0 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.26 mmol, 0.46 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | K2CO3 | 9.34 mmol, 1.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-methyl-2-[(quinolin-2-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride | 0.68 g, 52% yield | Cl.CC1=CC(=NC(=N1)SCC1=NC2=CC=CC=C2C=C1)O | InChI=1S/C15H13N3OS.ClH/c1-10-8-14(19)18-15(16-10)20-9-12-7-6-11-4-2-3-5-13(11)17-12;/h2-8H,9H2,1H3,(H,16,18,19);1H
